US05547980
6-chloro-2-piperidinomethyl-benzo[b]thiophene-1,1-dioxide
A mixture of 3.75 g 3,6-dichloro-2-methyl-benzo[b]-thiophene-1,1-dioxide and 35 ml piperidine is stirred for 4 hours at 80° C., water is subsequently added and it is extracted with ethyl acetate. The extract is concentrated by evaporation and it is ground with ethyl acetate. 1.6 g of the title compound (36% of the theoretical yield) of melting point 154°-156° C. is isolated.

reactant | 3,6-dichloro-2-methyl-benzo[b]-thiophene-1,1-dioxide | 3.75 g | ClC=1C2=C(S(C1C)(=O)=O)C=C(C=C2)Cl | C9H6Cl2O2S
reactant | piperidine | 35 ml | N1CCCCC1 | C5H11N
solvent | water | O | H2O
product | 6-chloro-2-piperidinomethyl-benzo[b]thiophene-1,1-dioxide | 1.6 g | ClC=1C=CC2=C(S(C(=C2)CN2CCCCC2)(=O)=O)C1 | C14H16ClNO2S
